US07834063B2
4-((2,2-Dimethylpropyl){2-[(4-fluorophenyl)oxy]ethyl}amino)-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1C from 4-[(2,2-dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile and 4-fluorophenol: 1H NMR (400 MHz, CDCl3) δ 7.55 (d, J=8.8 Hz, 1H), 7.10 (d, J=2.4 Hz, 1H), 6.99-6.93 (m, 2H, partially overlapping 6.91), 6.91 (dd, J=8.9, 2.3 Hz, 1H), 6.80-6.73 (m, 2H), 4.07 (t, J=5.7 Hz, 2H), 3.92 (t, J=5.7 Hz, 2H), 3.40 (s, 2H), 1.01 (s, 9H).

reactant | 4-[(2,2-dimethylpropyl)(2-hydroxyethyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCO)(C)C | C15H19F3N2O
reactant | 4-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
product | 4-((2,2-Dimethylpropyl){2-[(4-fluorophenyl)oxy]ethyl}amino)-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCOC1=CC=C(C=C1)F)(C)C | C21H22F4N2O
